US06806230B1
43.6 g (246 mmol) of 4,6-dichloropyrimidine-5-carboaldehyde was dissolved in 200 ml of methanol, and 120 g (622 mmol) of 28% sodium methoxide was added under cooling with ice and then reacted for 2 hours at room temperature. After completion of the reaction, the solvent was distilled off, and an aqueous citric acid solution was added, followed by extraction with ethyl acetate. The organic layer was washed with an aqueous sodium hydrogencarbonate solution, an aqueous citric acid solution, water and an aqueous sodium chloride solution in this order, dried and concentrated, and the obtained crude crystals were washed with isopropyl ether to obtain 8.3 g (yield: 20%) of 4,6-dimethoxypyrimidine-5-carboaldehyde.

reactant | 4,6-dichloropyrimidine-5-carboaldehyde | 246 mmol, 43.6 g | ClC1=NC=NC(=C1C=O)Cl | C5H2Cl2N2O
reactant | sodium methoxide | 622 mmol, 120 g | C[O-].[Na+]
reactant | methanol | 200 ml | CO | CH4O
product | 4,6-dimethoxypyrimidine-5-carboaldehyde | 8.3 g, yield: 20% | COC1=NC=NC(=C1C=O)OC | C7H8N2O3
